US06911464B2
To a solution of (1R)-N-{2-[1-(3-ethoxy-4-methoxy-phenyl)-3-hydroxyamino-propyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-isobutyramide (1.3 g, 2.6 mmol) in water (30 mL) was added a solution of potassium cyanate (442 mg, 5.5 g) in water (10 mL) at room temperature. After 1 h, the mixture was extracted with ethyl acetate (50 mL). The organic layer was washed with HCl (1N, 25 mL), brine (25 mL) and dried over MgSO4. The solvent was removed in vacuo and the residue was purified by prep HPLC to give (1R)-N-{2-[3-(N-aminocarbonyl-N-hydroxy-amino)-1-(3-ethoxy-4-methoxy-phenyl)-propyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-isobutyramide as a white solid (0.70 g, 55% yield): mp: 137-139° C. 1H NMR (DMSO-d6) δ 1.18 (d, J=7 Hz, 6H, 2CH3), 1.31 (t, J=7 Hz, 3H, CH3), 2.25-2.34 (m, 2H, CH2), 2.51-2.66 (m, 1H, CH), 3.22-3.40 (m, 2H, CH2), 3.73 (s, 3H, CH3), 3.95-4.06 (m, 2H, CH2), 4.10 (d, J=18 Hz, 1H, NCHH), 4.55 (d, J=18 Hz, 1H, NCHH), 5.26 (t, J=8 Hz, 1H, NCH), 6.34 (s, 2H, NH2), 6.92-6.98 (m, 3H, Ar), 7.18 (d, J=8 Hz, 1H, Ar), 7.50 (t, J=8 Hz, 1H, Ar), 8.29 (d, J=8 Hz, 1H, Ar), 9.34 (s, 1H, CH), 10.48 (s, 1H, NH); 13C NMR (DMSO-d6) δ 14.70, 19.18, 28.73, 35.94, 46.25, 47.22, 52.04, 55.43, 63.76, 111.94, 112.40, 116.55, 117.52, 117.60, 119.58, 131.99, 132.73, 137.12, 142.20, 147.89, 148.43, 161.57, 168.34, 174.93; Anal Calcd for C25H32N4O6+0.9 H2O: C, 59.96; H, 6.80; N, 11.19; H2O, 3.24. Found: C, 60.16; H, 6.58; N, 10.81; H2O, 3.24.

reactant | (1R)-N-{2-[1-(3-ethoxy-4-methoxy-phenyl)-3-hydroxyamino-propyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-isobutyramide | 2.6 mmol, 1.3 g | C(C)OC=1C=C(C=CC1OC)[C@@H](CCNO)N1CC2=CC=CC(=C2C1=O)NC(C(C)C)=O | C24H31N3O5
reactant | potassium cyanate | 442 mg | [O-]C#N.[K+]
solvent | water | 30 mL | O | H2O
solvent | water | 10 mL | O | H2O
product | (1R)-N-{2-[3-(N-aminocarbonyl-N-hydroxy-amino)-1-(3-ethoxy-4-methoxy-phenyl)-propyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-isobutyramide | 0.70 g, 55% yield | NC(=O)N(O)CC[C@H](C1=CC(=C(C=C1)OC)OCC)N1CC2=CC=CC(=C2C1=O)NC(C(C)C)=O | C25H32N4O6
